2176-04-27 06:43:00 Physician Resident Progress Note
Chief Complaint: None
   24 Hour Events:
   - Maxed Dopamine at 14
   - Changed propafol to fentanyl versed to help improve maps
   - Gave Fluid bolus 500 cc x3 and 1 L x1
   - CI 2.8 > 3.5 > 2.7
   - MAPs less than 40 not responsive to IVF. Started levophed.
   - Vent - FIO2: 80 % > 60 %; PEEP 10 > 8 > 5
   - Ortho requested - Shoulder films
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2176-4-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-4-26**] 10:25 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Insulin - Humalog - [**2176-4-26**] 10:24 PM
   Fentanyl - [**2176-4-26**] 11:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-27**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.9
   HR: 84 (82 - 104) bpm
   BP: 76/30(55) {59/24(42) - 118/59(90)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 10 (4 - 20)mmHg
   PAP: (41 mmHg) / (18 mmHg)
   CO/CI (Thermodilution): (4.8 L/min) / (2.6 L/min/m2)
   CO/CI (Fick): (5.1 L/min) / (2.7 L/min/m2)
   SVR: 1,083 dynes*sec/cm5
   Mixed Venous O2% Sat: 65 - 72
   SV: 49 mL
   SVI: 27 mL/m2
   Total In:
                                                                  1,796 mL
                                                                  3,404 mL
   PO:
   TF:
   IVF:
                                                                  1,736 mL
                                                                  3,404 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    470 mL
   Urine:
                                                                  1,010 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    786 mL
                                                                  2,934 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/30/99.[**Numeric Identifier 433**]/16/-6
   Ve: 12.5 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: intubated, sedate
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished),
   dopplerable right PT pulse
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, cool lower extremitites
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   214 K/uL
   10.3 g/dL
   150 mg/dL
   2.4 mg/dL
   16 mEq/L
   4.1 mEq/L
   30 mg/dL
   104 mEq/L
   135 mEq/L
   29.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2176-4-26**]  01:57 PM
                             [**2176-4-26**]  02:10 PM
                             [**2176-4-26**]  03:30 PM
                             [**2176-4-26**]  03:58 PM
                             [**2176-4-26**]  06:32 PM
                             [**2176-4-26**]  09:28 PM
                             [**2176-4-26**]  09:36 PM
                             [**2176-4-27**]  12:45 AM
                             [**2176-4-27**]  01:24 AM
                             [**2176-4-27**]  05:28 AM
   WBC
   12.9
   10.2
   Hct
   40
   39
   35.5
   33.0
   29.7
   Plt
   [**Telephone/Fax (3) 6319**]
   Cr
   2.5
   2.4
   TropT
   15.22
   15.28
   TCO2
   20
   19
   20
   19
   20
   19
   18
   Glucose
   173
   150
   Other labs: PT / PTT / INR:15.8/64.6/1.4, CK / CKMB /
   Troponin-T:4078/235/15.28, ALT / AST:50/442, Alk Phos / T Bili:64/1.0,
   Differential-Neuts:86.3 %, Lymph:9.0 %, Mono:3.9 %, Eos:0.3 %, Lactic
   Acid:2.1 mmol/L, LDH:1102 IU/L, Ca++:8.1 mg/dL, Mg++:3.2 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   75yo man with hx of CAD s/p CABG [**2161**] (LIMA to LAD, SVG to PDA, OM and
   Diagonal), PVD, HTN, hyperlipidemia here with STEMI.
   .
   # Cardiogenic shock and STEMI: likely from ischemic cause.  Patient
   underwent cath with 3 BMS to distal SVG to OM with subsequent
   persistent low BPs so placed on dopamine and IABP.
   - cardiac index 3.3 on arrival to CVICU with dopa 15 and IABP 1:1
   - reassess CI later tonight
   - eval for tamponade now (prelim neg).
   - continue dopa 15 and titrate prn.
   - continue IABP 1:1
   - trend CE - still rising
   - continue ASA 325
   - plavix 600x1 then 75 daily
   - continue heparin gtt without bolus for his IABP
   - continue simvastatin 80
   .
   # Cards Pump: Inferiolat hypokinesis on prelim echo post intervention.
   Support cardiac outpt as above.  LVEDP 25 in lab and pulm edema on CXR
   so will diurese for goal I<O -500 tonight.
   - hold on ACE in setting of ARF
   - afterload reduce with IABP
   - continue dopa for inotrophy
   - consider milrinone if SVR goes up and peripherally clamps down.  Hold
   for now.
   .
   # RHYTHM: NSR with rate 80s for now.  Hold BB
   .
   # Hypoxic Resp Failure: intubated for airway protection but now with
   hypoxic resp failure.  Suspect underlying obstructive dz from 120 pack
   yrs tobb hx.  Suspect asp pneumonitis and suspect pulm congestion from
   elevated LVEDP
   - continue FiO2 100% and PEEP 10 for O2 sat>92.
   - frequent suctioning
   - monitor Pplateau and Ppeak which have been normal thus far
   - diurese gently
   - MDI albuterol and atrovent for suspected COPD underlying
   .
   # Aspiration pneumonitis: witnessed aspiration in cath lab and now
   intubated primarily for airway protection.  Although usually a
   chemically mediated process, will treat with abx since large volume
   aspiration and resp failure.
   - vanco/zosyn
   - pan culture
   - taper down abx if able
   - treat resp failure as above.
   .
   # metabolic acidosis: AG 14 so some degree of anion gap acidosis likely
   [**1-1**] lactate.  Delta/delta suggests concomittant nongap likely from
   ARF.  Based on winter's formula, pCO2 should be 31-34 so will increase
   minute ventilation to improve pH.
   - recheck gas after increasing rate to 24 and Vt to 550.
   - likely pressor activity will improve with improvement in acidosis.
   .
   # ARF: baseline Cr 1.3 - now 2.5.  FeNa 5.7 (although had been given
   lasix) suggestive of ATN.  FeUrea 25% suggests prerenal.  regardless,
   suspect poor renal perfusion and ATN.
   - diurese as above for goal -500
   - treat hyperkalemia with insulin IV and recheck
   - monitor daily lytes and renally dose meds
   - monitor for contrast nephropathy in 2-3d
   .
   # question of SVC perforation: [**Month (only) 11**] have occurred during placement of
   cortis.  CXR with no significant widening of mediastinum and echo
   prelim without pericardial effusion.
   - monitor hct and xfuse for <28
   - repeat CXR in am
   - if becomes hypotensive with rising CVP, will consider tamponade as
   etiology and d/w cards team
   .
   # s/p shoulder surgery - pain control w fentanyl bolus prn
   .
   # Ulcerative colitis: continue asacol 1600 [**Hospital1 **]
   .
   # depression: celexa
   .
   # hx of GERD: use H2 blocker instead of PPI since plavix
   .
   FEN: NPO.  if stabilizis o/n start tube feeds
   ACCESS: cortis and swan
   PROPHYLAXIS:
   -DVT ppx covered by heparin gtt (50-70)
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   CODE: full, discussed
   DISPO: CCU
   CONTACT: wife is HCP [**Telephone/Fax (1) 6315**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2176-4-26**] 02:40 PM
   PA Catheter - [**2176-4-26**] 02:40 PM
   IABP line - [**2176-4-26**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-05-03 07:54:00 Physician Resident Progress Note
24 Hour Events:
   - Fluid balance neg 1.6L
   - [**Last Name (un) 1398**] Stim Showed: 11.3 (<15) and increased to 18.2 (diff <9), started
   hydrocortisone 50mg q6
   - DA weaned off
   - IABP removed
   - KUB read as "nonspecific bowel pattern"
   - Starting reglan and dulcolax
   - Haldol PRN for agitation
   - No change in vent settings
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   GEN: intubated, sedate, responds to pain
   Eyes/conjunctiva: PERRL
   CV: RRR over IABP sounds. No m/r/g appreciated. JVP flat.
   Chest: No c/r/w over IABP sounds.
   Abd: Soft, NT, mildly distended and tympanitic, BS+
   Ext: trace edema, dopplerable pulses bilaterally
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2176-05-03 08:00:00 Physician Resident Progress Note
24 Hour Events:
   - Fluid balance neg 1.6L
   - [**Last Name (un) 1398**] Stim Showed: 11.3 (<15) and increased to 18.2 (diff <9), started
   hydrocortisone 50mg q6
   - DA weaned off
   - IABP removed
   - KUB read as "nonspecific bowel pattern"
   - Starting reglan and dulcolax
   - Haldol PRN for agitation
   - No change in vent settings
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-4-30**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2176-5-2**] 05:15 PM
   Midazolam (Versed) - [**2176-5-2**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-3**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 99 (56 - 99) bpm
   BP: 136/56(296) {103/40(73) - 145/56(296)} mmHg
   RR: 18 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 76.4 kg
   Height: 66 Inch
    CVP: 18 (6 - 19)mmHg
   PAP: (40 mmHg) / (29 mmHg)
   CO/CI (Fick): (7.1 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 67 - 71
   Total In:
                                                                    830 mL
                                                                    302 mL
   PO:
   TF:
                                                                    215 mL
                                                                    163 mL
   IVF:
                                                                    615 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  2,439 mL
                                                                    275 mL
   Urine:
                                                                  2,439 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,609 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/35/112/23/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 160
   Physical Examination
   GEN: intubated, sedate, responds to pain
   Eyes/conjunctiva: PERRL
   CV: RRR over IABP sounds. No m/r/g appreciated. JVP flat.
   Chest: No c/r/w over IABP sounds.
   Abd: Soft, NT, mildly distended and tympanitic, BS+
   Ext: trace edema, dopplerable pulses bilaterally
   Labs / Radiology
   150 K/uL
   9.5 g/dL
   101 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   21 mg/dL
   106 mEq/L
   139 mEq/L
   27.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2176-5-1**]  10:42 AM
                             [**2176-5-1**]  03:19 PM
                             [**2176-5-1**]  03:42 PM
                             [**2176-5-1**]  10:49 PM
                             [**2176-5-2**]  04:01 AM
                             [**2176-5-2**]  04:11 AM
                             [**2176-5-2**]  04:18 PM
                             [**2176-5-2**]  04:42 PM
                             [**2176-5-2**]  09:24 PM
                             [**2176-5-3**]  04:33 AM
   WBC
   8.0
   6.0
   7.8
   Hct
   30.6
   28.4
   25.8
   27.9
   Plt
   114
   127
   150
   Cr
   1.5
   1.3
   1.2
   1.3
   TCO2
   22
   24
   24
   25
   25
   Glucose
   114
   108
   104
   101
   Other labs: PT / PTT / INR:13.1/26.5/1.1, CK / CKMB /
   Troponin-T:3175/148/15.28, ALT / AST:20/71, Alk Phos / T Bili:71/1.0,
   Differential-Neuts:66.1 %, Lymph:20.5 %, Mono:6.6 %, Eos:5.9 %,
   Fibrinogen:625 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:840
   IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   .
   # Cardiogenic Shock/STEMI. Off DA, off IABP. Pressures have ranged
   81/40 - 126/69 with Fick #s: 7.1/3.8/550 at 9PM.
   - stable continue to moniter
   - Continue ASA 325, Plavix 75, simva 80.
   .
   # PUMP: Received 20 mg lasix yesterday, is -1600mL and clinically
   volume status is improving significantly with decreased pedal edema
   today.
   - Goal -500 today, with 20 mg lasix this PM if needed
   .
   # RHYTHM: Mostly NSR with more volatile HR 50s-90s, sporadic PVCs.
   - Hold BB.
   .
   # Anemia: Improving. PLT continuing to rise, up to 150 today
very
   likely plt drop related to IABP; HCT rising slightly, 25.8 -> 27.9.
   overnight. Will continue to monitor.
   - cont to trend Hct, PM hct today
   .
   # Sedation: on versed and fentanyl for pain
   - switch to propofol for easier weaning
   - haldol prn for agitation
   .
   # Resp Failure/Aspiration: No weaning attempts yesterday given focus on
   weaning pressors and IABP; Remains on 70% FiO2, PEEP 8.
   - wean Fi02 today as tolerated to 40%, check ABG
   - Will attempt to wean aggressively today with reduced sedation given
   significant clinical improvement.
   - frequent suctioning
   - continue COPD meds, now with standing albuterol and ipratropium q4h
   - Day [**8-8**] Abx course (levaquin) for suspected aspiration
 renally
   adjust to QD
   .
   # Adrenal insuffiency in critical illness- pt technically qualifies for
   relative adrenal [**Name2 (NI) 6445**]
   - Failed [**Last Name (un) **] stim suggesting adrenal insufficiency which certainly
   could be affecting BP. Started hydrocortisone 50 mg q6, will follow.
   - will moniter stable over 24h
   # Abdomen remains distended this AM: likely constipation, no concerning
   signs on KUB.
   - Aggressive bowel regimen: senna, colace, reglan, dulcolax
   - Continue to monitor by physical exam
   .
   # ARF. Cre continuing to improve, stable at  1.3.
   .
   # s/p shoulder surgery
   - continue pain control with fentanyl bolus prn
   .
   # UC. per GI, d/c asacol for now.
   - guaiac stools to make sure UC is not flaring. if flares, LD
   prednisone.
   - restart Asacol when pt able to tolerate POs
   .
   # depression. celexa.
   ICU Care
   Nutrition: TF
   Nutren Pulmonary (Full) - [**2176-5-2**] 08:00 PM 25 mL/hour
   Glycemic Control:  ISS
   Lines:
   Cordis/Introducer - [**2176-4-26**] 02:40 PM
   PA Catheter - [**2176-4-26**] 02:40 PM
   Arterial Line - [**2176-5-1**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: sucrafalate
   VAP: HOB elevated  30 degrees
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   intubated, hypotensive, respiraroty failure, MI
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2176-5-3**] 11:30 ------

2176-05-05 06:54:00 Physician Resident Progress Note
Chief Complaint: cardiogenic shock/STEMI s/p L shoulder surgery
   [**90**] Hour Events:
 ARTERIAL LINE - STOP [**2176-5-4**] 09:19 AM
 CORDIS/INTRODUCER - STOP [**2176-5-4**] 12:45 PM
   - Hemodynamically stable yesterday, OOB to chair with assistance and in
   NAD
   - advanced diet to regular
   - Per Ortho re L shoulder: sling for 14d post-op, make f/u appt with
   Dr. [**Last Name (STitle) 413**] at 14d post-op (to do on monday), ROM as tolerated,
   weight-bearing < 5 lbs.
   - Iron labs unrevealing for low Hct: fe=53, ferritin=176, transferrin =
   228, TIBC=296
   -I/O: 8pm -400cc. Did not put out for 6 hrs after foley removed despite
   20 mg Lasix at 930 PM. Re-inserted foley at 10:30, put out additioal
   700cc.
   -Cr increased from 1.2 to 1.5
   - complaining of anterior L knee pain with movement; not swollen,
   bruised or tender to light pressure. no calf pain. likely r/t forceful
   restraining during periods of agitation while he was sedated. treating
   with ice packs and [**Last Name (LF) 5735**], [**First Name3 (LF) 116**] monitor.
   - this AM: felt
gassy
 then N/V x1; passed very small BM last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2176-5-4**] 10:30 AM
   Furosemide (Lasix) - [**2176-5-4**] 09:44 PM
   Heparin Sodium (Prophylaxis) - [**2176-5-4**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-5**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 73 (70 - 94) bpm
   BP: 129/58(75) {113/57(70) - 155/77(107)} mmHg
   RR: 27 (13 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 76.4 kg
   Height: 66 Inch
                  Total In:
                                                                  1,182 mL
                                                                    240 mL
   PO:
                                                                  1,000 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    395 mL
   Urine:
                                                                  2,170 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -988 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GEN: awake, alert, oriented, NAD
   Eyes/conjunctiva: PERRL
   CV: RRR, no m/r/g appreciate, JVP flat
   Chest: CTAB, No c/r/w
   Abd: Soft, NT, mildly distended, +BS
   Ext: No edema, radial pulses 2+ bilaterally, DP 1+ bilaterally
   MSK: Anterior L knee pain to deep palpation
   Labs / Radiology
   280 K/uL
   10.5 g/dL
   97 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   27 mg/dL
   102 mEq/L
   141 mEq/L
   31.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2176-5-2**]  09:24 PM
                             [**2176-5-3**]  04:33 AM
                             [**2176-5-3**]  11:09 AM
                             [**2176-5-3**]  12:04 PM
                             [**2176-5-3**]  04:51 PM
                             [**2176-5-3**]  07:59 PM
                             [**2176-5-3**]  10:19 PM
                             [**2176-5-4**]  06:28 AM
                             [**2176-5-4**]  07:38 PM
                             [**2176-5-5**]  05:32 AM
   WBC
   6.0
   7.8
   9.1
   9.9
   Hct
   25.8
   27.9
   27.7
   31.6
   Plt
   127
   150
   205
   280
   Cr
   1.3
   1.2
   1.5
   TCO2
   25
   25
   22
   27
   28
   Glucose
   101
   97
   Other labs: PT / PTT / INR:14.2/27.2/1.2, CK / CKMB /
   Troponin-T:3175/148/15.28, ALT / AST:20/71, Alk Phos / T Bili:71/1.0,
   Differential-Neuts:72.8 %, Lymph:20.7 %, Mono:3.4 %, Eos:2.6 %,
   Fibrinogen:625 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:840
   IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 75yo man with hx of CAD s/p CABG [**2161**] (LIMA to
   LAD, SVG to PDA, OM and Diagonal), PVD, HTN, hyperlipidemia here with
   STEMI s/p acromioplasty
   # Cardiogenic shock and STEMI:
   - BPs continue to stabilize, hemodynamically stable with no episodes of
   hypotension.
   - continue ASA 325, plavix 600, SQ heparin, simvastatin 80, metoprolol
   12.5 mg PO BID
   - Increase lisinopril to 10 mg PO daily
   # Cards Pump: Met diuresis goal of -1L yesterday to 20 mg lasix x2 but
   failed to put out urine without foley
   - Cre bump 1.2 - 1.5
   - Clinically euvolemic, resp status continuing to improve on O2 by NC.
   - Goal even today.
   # RHYTHM: NSR with rate 80s.
   # Resp Failure: Pt with increased WOB and crackles. Significantly
   improved, now 95-97% on 2L NC.
   - repeat CXR
   - diuresis as above pending volume status and CXR
   - finished abx course for aspiration, remains afebrile
   - incentive spirometry
   #Anemia: Slightly improved from yesterday, Hct 31.1. No iron
   deficiency, no rectal blood loss, no hemolysis. Will trend.
   #N/V: remains constipated and likely needs aggressive bowel regimen
   - Fleet enema today, Zofran PRN; follow clinically
   # Acid/Base: Acidemia has resolved, but Alkalemic yesterday pH
   7.48/36/143, suggestive of respiratory alkalosis.
   - ABG today to trend acid/base status
   # ARF: baseline Cr 1.3 - now 1.5. Likely r/t aggressive diuresis
   - hold diuresis for now, trend creatinine and lytes, renally dose meds
   - if cont [**Month (only) 202**] urine output will bolus IVF
   # s/p shoulder surgery - pain control w fentanyl bolus prn.
   - will schedule f/u with Dr. [**Last Name (STitle) 413**] for [**5-10**]
   - per ortho: ROM as tolerated, WB < 5 lbs, sling until [**5-10**]
   # Ulcerative colitis: all guaiacs negative. continue asacol 1600 [**Hospital1 **]
   # depression: celexa
   # hx of GERD: use H2 blocker instead of PPI since plavix
   FEN: tolerating POs; replete electrolytes as needed
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx: SC heparin
   -Pain management with fentanyl PRN
   -Bowel regimen with senna/colace, with reglan, dulcolax as needed
   CODE: full, discussed
   DISPO: to floor today pending full 24 hours hemodynamically stable
   CONTACT: wife is HCP [**Telephone/Fax (1) 6315**] verified. Cell-- [**First Name8 (NamePattern2) 1480**] [**Last Name (NamePattern1) 2255**]:
   [**Telephone/Fax (1) 6492**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-5-3**] 02:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2176-5-5**] 10:03 ------